US07338957B2
4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzoylamino]-phenyl}-amide resin (50 mg, 0.05 mmol), prepared as in reference 3, in n-butanol (2 mL) is mixed with N,N-dimethyl-1,3-phenylenediamine dihydrochloride (52.3 mg, 0.25 mmol) or mixed with acetyl chloride (17.8 μL, 0.25 mmol) and aniline and shaken at 80° C. for 24 hours. The resulting mixture is filtered and the resin is treated with TFA/CH2Cl2/H2O (45/50/5) (600 μL) for 30 minutes before filtering and washing with CH2Cl2 (3×2 mL), MeOH (3×2 mL). The washes are then combined together and concentrated. The residue is purified by preparative HPLC-MS to give 4-(3-dimethylamino-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzoylamino]-phenyl}-amide (23.2 mg, yield 71%); 1H NMR (400 MHz, DMSO-d6) δ 11.60 (s, 1H), 10.65 (s, 1H), 9.68 (s, 1H), 9.61 (s, 1H), 8.60 (s, 1H), 8.54 (s, 1H), 8.53 (s, 1H), 8.46 (s, 1H), 8.41 (s, 1H), 8.16 (s, 1H), 7.82 (d, J=3.9 Hz, 1H), 7.60 (d, J=8.2 Hz, 1H), 7.32 (d, J=3.6 Hz, 1H), 6.54 (d, J=8.4 Hz, 1H), 2.92 (s, 6H), 2.45 (s, 3H), 2.35 (s, 3H); ESIMS m/z 654.2 (M++1).

reactant | 4-Chloro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzoylamino]-phenyl}-amide | 0.05 mmol, 50 mg | CC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2Cl | C26H19ClF3N7O2
reactant | N,N-dimethyl-1,3-phenylenediamine dihydrochloride | 0.25 mmol, 52.3 mg | Cl.Cl.CN(C1=CC(=CC=C1)N)C
reactant | acetyl chloride | 0.25 mmol, 17.8 μL | C(C)(=O)Cl | C2H3ClO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 4-(3-dimethylamino-phenylamino)-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid {2-methyl-5-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-benzoylamino]-phenyl}-amide | 23.2 mg, yield 71% | CC1=C(C=C(C=C1)NC(C1=CC(=CC(=C1)C(F)(F)F)N1C=NC(=C1)C)=O)NC(=O)N1C=CC2=C1N=CN=C2NC2=CC(=CC=C2)N(C)C | C34H30F3N9O2
